US07176242B2
tert-Butyl (1S)-2-(cyclohexyl)-1-[(2S)-oxiran-2-yl]ethylcarbamate (225 mg, 0.84 mmol) was refluxed with m-ethyl benzylamine (254 mg, 1.9 mmol) in 5 mL of isopropanol under nitrogen for 1.5 h, the solvent was removed in vacuo, and the residue was dissolved in ethyl acetate. It was washed three times with small portions of 10% HCl, and the aqueous phases were back-extracted with ethyl acetate. The combined organic phases were washed with 1 N NaHCO3 and brine, dried over Na2SO4, and concentrated. The resulting oil (300 mg) was dissolved in 2 mL of dichloromethane and 2 mL of TFA and stirred for 30 min. It was concentrated, and by weight determined to contain 4 eq. of TFA. This was dissolved in 2 mL of dry THF, and 0.4 mL (3.6 mmol) of 4-methyl morpholine was added. This was cooled to −30° C., and a mixture of 3-[(dipropylamino)carbonyl]-5-methylbenzoic acid (238 mg, 0.9 mmol) and CDI (165 mg, 1 mmol) in 3 mL of dry THF, which had previously been stirred together for 1 h at room temperature, was added. The mixture was allowed to warm to ambient temperature. After 3 days the reaction was quenched with 1 N KH2PO4 and dissolved in ethyl acetate. The organic phase was washed with 1 N KH2PO4, 1 N NaHCO3 (2×) and brine, dried over Na2SO4, and concentrated. Chromatography over silica gel, eluting with 4% to 10% methanol (containing 1% NH4OH) in dichloromethane afforded 124 mg (0.21 mmol) of N1-{(1S,2R)-1-(cyclohexylmethyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-methyl-N3,N3-dipropylisophthalamide hydrochloride (EXAMPLE SP-256) as a white solid after formation of the salt with ethereal HCl: CI MS m/z 550 [M+H]+.

reactant | tert-Butyl (1S)-2-(cyclohexyl)-1-[(2S)-oxiran-2-yl]ethylcarbamate | 0.84 mmol, 225 mg | C1(CCCCC1)C[C@@H]([C@@H]1OC1)NC(OC(C)(C)C)=O | C15H27NO3
reactant | m-ethyl benzylamine | 1.9 mmol, 254 mg | C(C)C=1C=C(CN)C=CC1 | C9H13N
reactant | TFA | 4 eq. | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-methyl morpholine | 3.6 mmol, 0.4 mL | CN1CCOCC1 | C5H11NO
reactant | 3-[(dipropylamino)carbonyl]-5-methylbenzoic acid | 0.9 mmol, 238 mg | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C)CCC | C15H21NO3
reactant | CDI | 1 mmol, 165 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | HCl | Cl | ClH
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N1-{(1S,2R)-1-(cyclohexylmethyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-methyl-N3,N3-dipropylisophthalamide hydrochloride | 0.21 mmol, 124 mg | Cl.C1(CCCCC1)C[C@@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)NC(C1=CC(C(=O)N(CCC)CCC)=CC(=C1)C)=O | InChI=1S/C34H51N3O3.ClH/c1-5-16-37(17-6-2)34(40)30-19-25(4)18-29(22-30)33(39)36-31(21-27-12-9-8-10-13-27)32(38)24-35-23-28-15-11-14-26(7-3)20-28;/h11,14-15,18-20,22,27,31-32,35,38H,5-10,12-13,16-17,21,23-24H2,1-4H3,(H,36,39);1H/t31-,32+;/m0./s1
